US06265349B1
Preparation of 3-(2,4-difluoro-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-100)
3.7 g (13 mmol) of 3-(2,4-difluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone was dissolved in 20 ml of sulfuric acid, and 0.9 g (14 mmol) of fuming nitric acid was dropwise added thereto under cooling with ice, followed by stirring for 30 minutes under cooling with ice. The reaction solution was poured into ice water and extracted with ethyl acetate. The organic layer was washed with an aqueous sodium hydrogencarbonate solution and water and then, dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and then, the obtained residue was purified by silica gel column chromatography to obtain 4.2 g (yield: 98%) of the desired product. Melting point: 115-118° C. 1H-NMR (400 MHz, CDCl3) δ value: 3.71(3H,s), 6.81(1H,d), 7.13(1H,t), 7.57(1H,d), 8.43(1H,m)ppm.

reactant | 3-(2,4-difluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 13 mmol, 3.7 g | FC1=C(C=CC(=C1)F)C=1C(N(C(=CC1)C(F)(F)F)C)=O | C13H8F5NO
reactant | nitric acid | 14 mmol, 0.9 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 3-(2,4-difluoro-5-nitrophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 4.2 g, yield: 98% | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])C=1C(N(C(=CC1)C(F)(F)F)C)=O | C13H7F5N2O3
